US07612114B2
Pivalic acid 6-{2-{ethyl[4-(8-methyl-8-azabicyclo[3.2.1 ]oct-3-yloxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester
To a solution of pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (65 mg) and 4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yloxy)benzaldehyde (65 mg) in 1,2-dichloroethane (2 ml) were sequentially added acetic acid (0.07 ml) and sodium triacetoxyborohydride (120 mg) under a nitrogen atmosphere, and the solution was stirred overnight at room temperature. Tetrahydrofuran and aqueous ammonia were sequentially added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (58 mg).

reactant | pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 65 mg | C(C)NC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H31NO3
reactant | 4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yloxy)benzaldehyde | 65 mg | CN1C2CC(CC1CC2)OC2=CC=C(C=O)C=C2 | C15H19NO2
reactant | sodium triacetoxyborohydride | 120 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonia | N | H3N
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
solvent | Tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | 0.07 ml | C(C)(=O)O | C2H4O2
product | Pivalic acid 6-{2-{ethyl[4-(8-methyl-8-azabicyclo[3.2.1 ]oct-3-yloxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 58 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)CC1=CC=C(C=C1)OC1CC2CCC(C1)N2C | C39H50N2O4
